US04782158
Preparation of 7-[2-{N-(2-Hydroxy-5-chlorophenyl)carbamoylmethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)
A mixture of N,N-dimethylformamide (10 ml.) and phosphorus oxychloride (0.507 g.) was warmed at 40° C. for 30 minutes and subsequently cooled to -10° C. and thereto was added 2-[N-(2-hydroxy-5-chlorophenyl)carbamoylmethoxyimino]-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.00 g.). The resulting mixture was stirred at -10° to -5° C. for 50 minutes. On the other hand, to a solution of trimethylsilylacetamide (3.60 g.) in methylene chloride (15 ml.) was added 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.003 g.). To this solution was added the stirred mixture obtained above at -25° C. followed by stirring at -20° to -10° C. for 2 hours. After concentration of the reaction mixture, to the residue were added a saturated aqueous solution of sodium bicarbonate (25 ml.) and water (50 ml.). The resulting mixture was washed with ethyl acetate and thereto was added ethyl acetate (100 ml.). The mixture was adjusted to pH 2 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, treated with activated charcoal and then concentrated. The residue was triturated with diethyl ether and the precipitates were collected by filtration and then washed with diethyl ether to give a powder (1.0 g.), which was dissolved in a small amount of a mixture of acetone and ethyl acetate. This solution was washed with water twice, dried over magnesium sulfate and then concentrate to a small volume. To the concentrate was added diethyl ether followed by stirring at room temperature overnight. The precipitates were collected by filtration, washed with diethyl ether and dried to give the title compound (0.63 g.).

reactant | phosphorus oxychloride | 0.507 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-[N-(2-hydroxy-5-chlorophenyl)carbamoylmethoxyimino]-2-(2-formamidothiazol-4-yl)acetic acid | 1.00 g | OC1=C(C=C(C=C1)Cl)NC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C14H11ClN4O6S
reactant | trimethylsilylacetamide | 3.60 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.003 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-[2-{N-(2-Hydroxy-5-chlorophenyl)carbamoylmethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.63 g | OC1=C(C=C(C=C1)Cl)NC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C24H21ClN10O8S3
